US08563546B2
Synthesis of 4-(1-((6-chloropyridin-3-yl)methyl)-4,5-dihydro-1H-imidazol-2-yl)-1-(1-((6-chloropyridin-3-yl)methyl)imidazolidin-2-ylidene)-1,4-dinitrobut-3-en-2-ol
To a 50 ml round bottom flask was added 1.27 g (0.005 mol) 2-chloro-5-((2-(nitromethylene)imidazolidin-1-yl)methyl)pyridine, 30 ml acetonitrile and 3 ml 30% oxaldehyde aqueous solution. After stirring for 0.5 hour, catalytic concentrated HCl was added. The reaction was then stirred and monitored by TLC until completion. The mixture was filtered afterwards to afford white powder, which was crystallized to give 1.05 g pure final product as white powder solid. Yield: about 76%.

reactant | 2-chloro-5-((2-(nitromethylene)imidazolidin-1-yl)methyl)pyridine | 0.005 mol, 1.27 g | ClC1=NC=C(C=C1)CN1C(NCC1)=C[N+](=O)[O-] | C10H11ClN4O2
reactant | oxaldehyde | 3 ml | C(=O)C=O | C2H2O2
reactant | HCl | Cl | ClH
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-(1-((6-chloropyridin-3-yl)methyl)-4,5-dihydro-1H-imidazol-2-yl)-1-(1-((6-chloropyridin-3-yl)methyl)imidazolidin-2-ylidene)-1,4-dinitrobut-3-en-2-ol | 1.05 g, Yield: about 76% | ClC1=CC=C(C=N1)CN1C(=NCC1)C(=CC(C([N+](=O)[O-])=C1N(CCN1)CC=1C=NC(=CC1)Cl)O)[N+](=O)[O-] | C22H22Cl2N8O5
